US04960766
Sodium carbonate (6.06 g) was added to a suspension of sulfuric acid salt of 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer)(35 g) in water (105 ml) and then the solution was allowed to stand at 3° to 5° C. for 14 hours. The resultant precipitates were collected by filtration, washed with cool water (50 ml) and dried to give crystals of 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate dihydrate (syn isomer) (23.8 g).

reactant | Sodium carbonate | 6.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 35 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC(F)F | C18H17F2N7O5S2
solvent | water | 105 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate dihydrate | 23.8 g | O.O.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC(F)F | InChI=1S/C18H17F2N7O5S2.2H2O/c1-25-3-2-4-26(25)5-8-6-33-15-11(14(29)27(15)12(8)16(30)31)23-13(28)10(24-32-17(19)20)9-7-34-18(21)22-9;;/h2-4,7,11,15,17H,5-6H2,1H3,(H3-,21,22,23,28,30,31);2*1H2/t11-,15-;;/m1../s1
